US08378107B2
Step 1: 3-Bromo-quinoline-2-carbaldehyde
To isopropylmagnesium chloride lithium chloride complex solution (1.3M in THF; 50 mL, 65 mmol) was added 2,2,6,6-tetramethylpiperidine (11.5 mL, 68.3 mmol) dropwise, and the mixture was stirred overnight at room temperature. To 55 mL of the resulting solution at −25° C. under N2 was added 3-bromoquinoline (6.52 mL, 48 mmol) dropwise, and the reaction was stirred for 1 hour. DMF (3 mL) was added, and the reaction was slowly warmed to room temperature and monitored by analytical LCMS. The mixture was quenched with saturated aqueous NH4Cl and worked-up. The residue was purified by silica gel chromatography to give the title compound.

reactant | 2,2,6,6-tetramethylpiperidine | 68.3 mmol, 11.5 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 3-bromoquinoline | 48 mmol, 6.52 mL | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-Bromo-quinoline-2-carbaldehyde | BrC=1C(=NC2=CC=CC=C2C1)C=O | C10H6BrNO
